US04612322
To a solution of 500 mg of 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-1,2-propanediol in 5 ml of dry dimethylformamide is added 180 mg of 50% mineral oil dispersion of sodium hydride under ice cooling. Five minutes later 490 mg of bromochloromethane is added to the mixture, which is allowed to react at a temperature of 50° C. for 1 hour. The reaction mixture is mixed with ice water and shaken with ether. The ethereal layer is washed with water, dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica-gel, which is eluted with 3% methanol-methylene chloride. The eluate is concentrated and the residue is crystallized from ethyl acetate to give 280 mg of 4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)-4-(1H-1,2,4-triazol-1-yl)methyl-1,3-dioxolane as crystals melting at 201 ° to 203° C. The yield is 54%.

reactant | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-1,2-propanediol | 500 mg | ClC1=CC=C(C=C1)C(C(O)C1=C(C=C(C=C1)Cl)Cl)(CN1N=CN=C1)O | C17H14Cl3N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | bromochloromethane | 490 mg | BrCCl | CH2BrCl
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-5-(2,4-dichlorophenyl)-4-(1H-1,2,4-triazol-1-yl)methyl-1,3-dioxolane | 280 mg, yield is 54% | ClC1=CC=C(C=C1)C1(OCOC1C1=C(C=C(C=C1)Cl)Cl)CN1N=CN=C1 | C18H14Cl3N3O2
